US05905090
N-(4-isopropylphenyl)-2-hydroxybenzamide
This compound was obtained as a white solid starting from acetylsalicyclic acid and 4isopropylaniline using the same procedure described in example 5.

reactant | acetylsalicyclic acid | C(C)(=O)OC=1C(C(=O)O)=CC=CC1 | C9H8O4
reactant | 4isopropylaniline | C(C)(C)C1=CC=C(N)C=C1 | C9H13N
product | N-(4-isopropylphenyl)-2-hydroxybenzamide | C(C)(C)C1=CC=C(C=C1)NC(C1=C(C=CC=C1)O)=O | C16H17NO2
